US05569768
2-(3,4-Diaminophenyl)benzonitrile (9.6 mmoles, 2.0 g) was dissolved in 40 ml of pentafluoropropionic acid and heated at 115° C. for 20 hours. After cooling, the solvent was removed in vacuo. The residue was dissolved in ethyl acetate. The ethyl acetate solution was added slowly to saturated sodium bicarbonate. The intermediate was extracted with ethyl acetate, washed with brine, dried over sodium sulfate and concentrated. The residue was chromatographed over silica gel eluded with 25% ethyl acetate in hexane to yield 1.1 g of 5-(2-cyanophenyl)-2-pentafluoroethyl-1H-benzimidazole. (MS).

reactant | 2-(3,4-Diaminophenyl)benzonitrile | 9.6 mmoles, 2.0 g | NC=1C=C(C=CC1N)C1=C(C#N)C=CC=C1 | C13H11N3
reactant | pentafluoropropionic acid | 40 ml | FC(C(C(=O)O)(F)F)(F)F | C3HF5O2
product | 5-(2-cyanophenyl)-2-pentafluoroethyl-1H-benzimidazole | 1.1 g | C(#N)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)C(C(F)(F)F)(F)F)C=C1 | C16H8F5N3
